US06288096B1
0.25 g (2.9 mmole) piperidine, 0.174 g (2.9 mmole) acetic acid, 120 ml toluene, 2.5 g (5.8 mmole) 4-[2-(4-formylphenoxy)ethyl]phenyl 3-nitrobenzenesulfonate and 0.86 g (7.3 mmole) 2,4-thiazolidinedione were refluxed with water separation in a Dean-Stark apparatus. When the reaction mixture was allowed to cool yellow crystals formed. The crystals were collected by filtration and stirred in methanol. Filtration gave 2 g (yield 65.5%) of 5-(4-[2-(4-(3-nitrophenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | piperidine | 2.9 mmole, 0.25 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.9 mmole, 0.174 g | C(C)(=O)O | C2H4O2
reactant | 4-[2-(4-formylphenoxy)ethyl]phenyl 3-nitrobenzenesulfonate | 5.8 mmole, 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C21H17NO7S
reactant | 2,4-thiazolidinedione | 7.3 mmole, 0.86 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | water | O | H2O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(4-(3-nitrophenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 2 g, yield 65.5% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C24H18N2O8S2
